### PR TITLE
[Merged by Bors] - refactor(Computability): split RecursiveIn out of TuringDegree

### PR DESCRIPTION
**Pull request by tannerduve**
Move-only refactor: extracts `RecursiveIn` into its own file. per @eric-wieser suggestion in #34899 . the `TuringDegree` header is also edited because it no longer contains definitions of oracle computability and recursive in

note: cursor agent was allowed to execute some git commands

### CODE REVIEW

File: Mathlib/Computability/TuringDegree.lean [hunk 1]
```diff
@@ -107,7 +74,8 @@ lemma Nat.Partrec.turingReducible (pF : Nat.Partrec f) : f ≤ᵀ g := by
 If a function is recursive in the constant zero function,
 then it is partial recursive.
 -/
-lemma TuringReducible.partrec_of_zero (fRecInZero : f ≤ᵀ fun _ => Part.some 0) : Nat.Partrec f := by
+lemma TuringReducible.partrec_of_zero
+    (fRecInZero : f ≤ᵀ fun _ => Part.some 0) : Nat.Partrec f := by
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegree.lean]: Your description says this is a move only change, but this is not part of that move. Did you choose to make this change, or did cursor make it and you didn't notice?

File: Mathlib/Computability/RecursiveIn.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+
+The type of partial functions recursive in a set of oracles `O` is the smallest type containing
+the constant zero, the successor, left and right projections, each oracle `g ∈ O`,
+and is closed under pairing, composition, primitive recursion, and μ-recursion.
+
+## References
+
+* [Odifreddi1989] Odifreddi, Piergiorgio.
+  *Classical Recursion Theory: The Theory of Functions and Sets of Natural Numbers,
+  Vol. I*. Springer-Verlag, 1989.
```
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean]: This should be in references.bib; once this PR goes in, can you create a new one to fix that?

File: Mathlib/Computability/TuringDegree.lean (hunk 1 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegree.lean]: I got mixed up in my branches and manually made this change, my mistake

Comment (tannerduve) [reply Mathlib/Computability/TuringDegree.lean]: I've also edited the `TuringDegree` header since it's outdated, assuming that is ok for move-only PR

Comment (eric-wieser) [reply Mathlib/Computability/TuringDegree.lean]: It's ok to creep the scope slightly on "move only", especially around `section` and docstrings; but if you do that, you should comment on it in the PR description.

File: Mathlib/Computability/TuringDegree.lean [hunk 3]
```diff
@@ -29,12 +26,6 @@ defines Turing degrees as the quotient under this relation.
...
 
-## Implementation notes
-
-The type of partial functions recursive in a set of oracles `O` is the smallest type containing
-the constant zero, the successor, left and right projections, each oracle `g ∈ O`,
-and is closed under pairing, composition, primitive recursion, and μ-recursion.
-
 ## References
 
 * [Odifreddi1989] Odifreddi, Piergiorgio.
```
Comment (eric-wieser) [inline Mathlib/Computability/TuringDegree.lean:31]: Just to check, this is deliberately in both files?

Comment (tannerduve) [reply Mathlib/Computability/TuringDegree.lean:31]: I think it makes more sense to only have it in the degree file, it wasn't really used for the `RecursiveIn` material. I will remove
